US07402595B2
2-benzyl-6-bromo-3-(1-hydroxyethyl)-4-phenyl-2H-isoquinolin-1-one
To a solution of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde (500 mg) in THF (5 ml) was added dropwise a solution of methyl magnesium bromide in THF (3M, 0.5 ml) at room temperature, and the mixture was stirred for 10 min. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from ethyl acetate-hexane to give the title compound (470 mg).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbaldehyde | 500 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C=O)C1=CC=CC=C1)Br)=O | C23H16BrNO2
reactant | methyl magnesium bromide | C[Mg]Br
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 3M, 0.5 ml | C1CCOC1 | C4H8O
product | 2-benzyl-6-bromo-3-(1-hydroxyethyl)-4-phenyl-2H-isoquinolin-1-one | 470 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(C)O)C1=CC=CC=C1)Br)=O | C24H20BrNO2
